US04608378
(RS)-Ethyl 1-methoxycarbonyl-4-oxo-5-methylpiperidine-3-carboxylate ethylene ketal
A mixture of 1.9 g (7.8 mmol) of (RS)-ethyl 1-methoxycarbonyl-4-hydroxy-5-methyl-1,2,5,6-tetrahydropyridine-3-carboxylate (prepared as described in Acta Chem. Scand. B32, 327 (1978)), ethylene glycol (2.2 ml), 4-toluenesulfonic acid (0.15 g), and toluene was refluxed for 20 hours using a Dean-Stark water separator. The mixture was washed with aqueous sodium bicarbonate, dried and evaporated in vacuo. The crude product was distilled at 0.5 mm Hg, B.P. 148°-152° C. Yield 1.6 g.

reactant | (RS)-ethyl 1-methoxycarbonyl-4-hydroxy-5-methyl-1,2,5,6-tetrahydropyridine-3-carboxylate | 7.8 mmol, 1.9 g | COC(=O)N1CC(=C(C(C1)C)O)C(=O)OCC | C11H17NO5
reactant | ethylene glycol | 2.2 ml | C(CO)O | C2H6O2
reactant | 4-toluenesulfonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (RS)-Ethyl 1-methoxycarbonyl-4-oxo-5-methylpiperidine-3-carboxylate ethylene ketal | C1COC(OCC)(C2CN(CC(C2=O)C)C(=O)OC)O1 | C13H21NO6
